US08471005B2
(4-{3-Methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetic acid tert-butyl ester
Into an 8-dram vial Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester (100 mg, 0.3 mmol), [4-(4-Amino-3-methoxy-phenyl)-piperidin-1-yl]-acetic acid tert-butyl ester (133 mg, 0.415 mmol), N,N-Diisopropylethylamine (150 uL, 0.86 mmol) and 1-Methoxy-2-propanol (2 mL, 20 mmol) were added. The reaction mixture was heated at 80° C. After 3 days, solvent was removed and the product, (4-{3-Methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetic acid tert-butyl ester, was purified by flash chromatography (ISCO, 40 g column, hexane; EtOAc 1:1) as a gum (79 mg, 54%). LCMS (E/I+) 544 (M+H). NMR 1H (MeOH-d4)-8.7 (s, 1H), 8.16 (d, 1H, J=8.28 Hz), 7.82 (d, 1H, J=7.56 Hz), 7.45 (m, 1H), 7.16 (d, 1H, J=8.32 Hz), 7.09 (m, 1H), 6.95 (d, 1H, J=4.67 Hz), 6.89 (d, 1H, J=4.68 Hz), 6.81 (s, 1H), 6.72 (s, 1H), 6.63 (m, 1H), 3.89 (s, 3H), 3.83 (s, 2H), 3.80 (s, 3H), 3.03 (m, 2H), 2.43 (m, 1H), 2.25 (m, 2H), 1.76 (m, 4H), 1.49 (s, 9H).

reactant | Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | 0.3 mmol, 8-dram, 100 mg | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F | C14H10F3N3O4S
reactant | [4-(4-Amino-3-methoxy-phenyl)-piperidin-1-yl]-acetic acid tert-butyl ester | 0.415 mmol, 133 mg | C(C)(C)(C)OC(CN1CCC(CC1)C1=CC(=C(C=C1)N)OC)=O | C18H28N2O3
reactant | N,N-Diisopropylethylamine | 0.86 mmol, 150 uL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-Methoxy-2-propanol | 20 mmol, 2 mL | COCC(C)O | C4H10O2
product | (4-{3-Methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1CCC(CC1)C1=CC(=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC)OC)=O | C31H37N5O4
